US05294713
WORKING EXAMPLE 52 N-(2,2-Diethoxyethyl)-L-phenylalanine t-butyl ester
A mixture of 2.58 g of L-phenylalanine t-butyl ester hydrochloride, 2.76 g of potassium carbonate, 0.1 g of sodium iodide, 2.2 g of 2-bromo-1,1-diethoxyethane and 30 ml of N,N-dimethylformamide was stirred for 24 hours at 100° C. The reaction mixture was poured into ice-water, which was subjected to extraction with hexane. The organic layer was washed with water, dried over anhydrous magnesium sulfate, then concentrated under reduced pressure. The concentrate was purified by means of a silica gel column chromatography (eluent: ethyl acetate-hexane=1:4→1:2) to afford 2.2 g of the title compound as a pale yellow oily product.

reactant | L-phenylalanine t-butyl ester hydrochloride | 2.58 g | Cl.C(C)(C)(C)OC([C@@H](N)CC1=CC=CC=C1)=O
reactant | potassium carbonate | 2.76 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.1 g | [I-].[Na+]
reactant | 2-bromo-1,1-diethoxyethane | 2.2 g | BrCC(OCC)OCC | C6H13BrO2
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | N-(2,2-Diethoxyethyl)-L-phenylalanine t-butyl ester | 2.2 g | C(C)(C)(C)OC([C@@H](NCC(OCC)OCC)CC1=CC=CC=C1)=O | C19H31NO4
